### PR TITLE
feat(Analysis/Calculus): continuously differentiable actions

### PR DESCRIPTION
**Pull request by archiebrowne**
define the class `ContDiffSMul 𝕜 M X n` which asserts that the map `(c, x) ↦ c • x` is `n` times continuously differentiable on `M × X`. 

Many of the results are the C^n analogues of those in the module Mathlib.Topology.Algebra.MulAction.

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ContDiffMulAction.lean [hunk 1]
```diff
@@ -0,0 +1,272 @@
...
+
+/-!
+# Continuously differentiable monoid actions
+
+In this file we define the class `ContDiffSMul`. `ContDiffSMul 𝕜 M X n` holds if `M` acts on `X` and
+the map `(c, x) ↦ c • x` is `n` times continuously differentiable on `M × X`.
+
+## Main definitions
+
+* `ContDiffSMul 𝕜 M X n` : typeclass saysing that the map `(c, x) ↦ c • x` is `n` times continuously
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/ContDiffMulAction.lean]:
```suggestion
* `ContDiffSMul 𝕜 M X n` : typeclass saying that the map `(c, x) ↦ c • x` is `n` times continuously
```

File: Mathlib/Geometry/Manifold/ContDiffMulAction.lean [hunk 2]
```diff
@@ -0,0 +1,272 @@
...
+
+open Topology Pointwise
+open Filter
+
+/-- The class `ContDiffSMul 𝕜 M X n` says that the scalar multiplication `(•) : M → X → X` is `n`
+times continuously differentiable in both arguments. -/
+class ContDiffSMul (𝕜 M X : Type*) (n : WithTop ℕ∞) [SMul M X] [NormedAddCommGroup X]
+    [NontriviallyNormedField 𝕜] [NormedAddCommGroup M] [NormedSpace 𝕜 M]
+    [NormedSpace 𝕜 X] : Prop where
+  /-- The scalar multiplication `(•)` is contiuously differnentiable. -/
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/ContDiffMulAction.lean]:
```suggestion
  /-- The scalar multiplication `(•)` is continuously differentiable. -/
```

File: Mathlib/Geometry/Manifold/ContDiffMulAction.lean [hunk 3]
```diff
@@ -0,0 +1,272 @@
...
+analogues of the results in the module `Mathlib.Topology.Algebra.MulAction`.
+-/
+
+@[expose] public section
+
+open Topology Pointwise
+open Filter
+
+/-- The class `ContDiffSMul 𝕜 M X n` says that the scalar multiplication `(•) : M → X → X` is `n`
+times continuously differentiable in both arguments. -/
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/ContDiffMulAction.lean]: "In both arguments" sounds a little ambiguous to me - it could also mean that the action map is continuously differentiable in each argument separately. Maybe "continuously differentiable on `M × X`" is more clear?

File: Mathlib/Geometry/Manifold/ContDiffMulAction.lean [hunk 4]
```diff
@@ -0,0 +1,272 @@
...
+is `n` times continuously differentiable in both arguments. -/
+class ContDiffVAdd (𝕜 M X : Type*) (n : WithTop ℕ∞) [VAdd M X] [NormedAddCommGroup X]
+    [NontriviallyNormedField 𝕜] [NormedAddCommGroup M] [NormedSpace 𝕜 M]
+    [NormedSpace 𝕜 X] : Prop where
+  /-- The additive action `(+ᵥ)` is continuous. -/
+  contdiff_vadd : ContDiff 𝕜 n fun p : M × X => p.1 +ᵥ p.2
+
+export ContDiffVAdd (contdiff_vadd)
+
+attribute [to_additive] ContDiffSMul
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/ContDiffMulAction.lean]: I think if you define `ContDiffVAdd` first you can also tag `ContDiffSMul` with `@[to_additive]` directly where it is defined? Doesn't matter much though

File: Mathlib/Geometry/Manifold/ContDiffMulAction.lean [hunk 5]
```diff
@@ -0,0 +1,272 @@
...
+    (ι : N →L[𝕜] X) (π : X →L[𝕜] N) (hπι : ∀ x, π (ι x) = x)
+    (hsmul : ∀ (m : M) (x : N), ι (m • x) = m • ι x) : ContDiffSMul 𝕜 M N n := ⟨by
+  set F := fun (p : M × N) => p.1 • p.2 with hF
+  have hF' : F = fun p ↦ π (p.1 • ι p.2) := by
+    ext p; rw [← hsmul p.1 p.2, hπι (p.1 • p.2)]
+  rw [hF']
+  exact π.contDiff.comp (contdiff_smul.comp
+    (ContDiff.prodMk contDiff_fst (ι.contDiff.comp contDiff_snd)))⟩
+
+/-- Transfer `ContDiffSMul` along a smooth map on the acting type. -/
```
Comment (peabrainiac) [inline Mathlib/Geometry/Manifold/ContDiffMulAction.lean]:
```suggestion
/-- Transfer `ContDiffSMul` along a continuously differentiable map on the acting type. -/
```

File: Mathlib/Analysis/ContDiffMulAction.lean [hunk 6]
```diff
@@ -0,0 +1,272 @@
...
+  ContDiffSMul.contdiff_smul.comp_contDiffAt _ (ContDiffAt.prodMk hf hg)
+
+@[to_additive]
+theorem ContDiffOn.contdiff_smul (hf : ContDiffOn 𝕜 n f s)
+    (hg : ContDiffOn 𝕜 n g s) :
+    ContDiffOn 𝕜 n (fun x => f x • g x) s :=
+  fun x hx => (hf x hx).contdiff_smul' (hg x hx)
+
+@[to_additive]
+theorem ContDiff.contdiff_smul (hf : ContDiff 𝕜 n f) (hg : ContDiff 𝕜 n g) :
```
Comment (peabrainiac) [inline Mathlib/Analysis/ContDiffMulAction.lean:192]: The correct name for this would be `ContDiff.smul`, but that name is already taken by the corresponding lemma for scalar multiplication on vector spaces - if possible without messing with the import structure too much, it would probably make sense to remove those lemmas and provide a `ContDiffSMul` instance for scalar multiplication on vector spaces instead, and then use the correct name here? The same goes for `ContDiffAt.contdiff_smul` etc.

**Review by peabrainiac — COMMENTED** [review]
I just found this PR while preparing a PR on continuously differentiable actions of manifolds (i.e. `ContMDiffSMul` instead of `ContDiffSMul`) and looking for prior work. In principle I think having a non-manifold version too makes sense; the acting space being a vector space is a strong restriction, but there are at least some examples of such actions that are not just the action of a field on a vector space over it, e.g. the action of the monoid of all continuous linear transformations of a space on that space. The API for non-manifold actions should probably go into `Mathlib/Analysis` though, not in the `Mathlib/Geometry/Manifold` folder.

I've left a few other remarks below.

**Comment by archiebrowne** [comment]
> I just found this PR while preparing a PR on continuously differentiable actions of manifolds (i.e. `ContMDiffSMul` instead of `ContDiffSMul`) and looking for prior work. In principle I think having a non-manifold version too makes sense; the acting space being a vector space is a strong restriction, but there are at least some examples of such actions that are not just the action of a field on a vector space over it, e.g. the action of the monoid of all continuous linear transformations of a space on that space. The API for non-manifold actions should probably go into `Mathlib/Analysis` though, not in the `Mathlib/Geometry/Manifold` folder.
> 
> I've left a few other remarks below.

Thanks for the review! I have committed most of the suggestions.

File: Mathlib/Analysis/ContDiffMulAction.lean (hunk 6 above)
Comment (archiebrowne) [reply Mathlib/Analysis/ContDiffMulAction.lean:192]: Thanks! I'll have a think about how to do this cleanly

**Comment by grunweg** [comment]
Thanks a lot for this PR! I'm not sure how to deal with the fact that both PRs are very similar (but in different settings). Perhaps we want to have both versions? I'll get back to you!
